US08426411B2
To a flask charged with (3R,4R)-ethyl 4-methylpiperidine-3-carboxylate (2S,3S)-2,3-dihydroxysuccinate (36.9 g, 115 mmol) was added a solution of HCl (6 N aqueous, 191 mL). The reaction mixture was heated to about 60° C. After about 2 h, the reaction mixture was heated to about 90° C. After about 4 h the reaction mixture was cooled to ambient temperature and concd in vacuo. To the residue was added NaHCO3 (122 g, 1148 mmol) and di-tert-butyl dicarbonate (37.6 g, 172 mmol) followed by a mixture of 1,4-dioxane (500 mL) and water (500 mL). After about 2 h, Et2O (500 mL) and water (500 mL) were added to the reaction mixture. The pH was adjusted to about 4 with 1 N aqueous HCl. The organic layer was separated, dried over anhydrous Na2SO4, filtered, and concd in vacuo to provide a white solid. The solid was slurried in heptane and filtered to provide (3R,4R)-1-(tert-butoxycarbonyl)-4-methylpiperidine-3-carboxylic acid (25 g, 89%) as a white solid: LC/MS (Table 1, Method b) Rt=1.90 min; MS m/z: 244 (M+H)+.

reactant | (3R,4R)-ethyl 4-methylpiperidine-3-carboxylate (2S,3S)-2,3-dihydroxysuccinate | 115 mmol, 36.9 g | O[C@H](C(=O)O)[C@@H](C(=O)O)O.C[C@H]1[C@H](CNCC1)C(=O)OCC
reactant | HCl | 6 N, 191 mL | Cl | ClH
reactant | NaHCO3 | 1148 mmol, 122 g | C(=O)(O)[O-].[Na+]
reactant | di-tert-butyl dicarbonate | 172 mmol, 37.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 1 N | Cl | ClH
solvent | heptane | CCCCCCC | C7H16
solvent | water | 500 mL | O | H2O
solvent | Et2O | 500 mL | CCOCC | C4H10O
solvent | water | 500 mL | O | H2O
solvent | 1,4-dioxane | 500 mL | O1CCOCC1 | C4H8O2
product | (3R,4R)-1-(tert-butoxycarbonyl)-4-methylpiperidine-3-carboxylic acid | 25 g, 89% | C(C)(C)(C)OC(=O)N1C[C@@H]([C@@H](CC1)C)C(=O)O | C12H21NO4
